US07402669B2
The solution thus obtained is filtered and then concentrated, in a reactor under reduced pressure, until an aqueous phase is obtained, according to the same principle as the preceding concentration. It is then readjusted by adding ethanol in order to obtain a stabilized aqueous-alcoholic solution having a solids content of 200 g +/−20 per liter and an alcohol percentage of 35%+/−3.5% volume/volume. A prepurified phase rich in madecassoside and in terminoloside and still containing asiaticoside is thus obtained.

reactant | madecassoside | C[C@@H]1CC[C@@]2(CC[C@]3(C(=CC[C@H]4[C@]3(C[C@H]([C@@H]5[C@@]4(C[C@H]([C@@H]([C@@]5(C)CO)O)O)C)O)C)[C@@H]2[C@H]1C)C)C(=O)O[C@H]6[C@@H]([C@H]([C@@H]([C@H](O6)CO[C@H]7[C@@H]([C@H]([C@@H]([C@H](O7)CO)O[C@H]8[C@@H]([C@@H]([C@H]([C@@H](O8)C)O)O)O)O)O)O)O)O | C48H78O20
solvent | terminoloside | C[C@H]1[C@@H]([C@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](O[C@H]([C@@H]([C@H]2O)O)OC[C@@H]3C([C@@H](C([C@@H](O3)OC(=O)[C@@]45CC[C@@]6(C(=CC[C@H]7[C@]6(C[C@H]([C@@H]8[C@@]7(C[C@H]([C@@H]([C@@]8(C)CO)O)O)C)O)C)[C@@H]4CC(CC5)(C)C)C)O)O)O)CO)O)O)O | C48H78O20
product | asiaticoside | C[C@@H]1CC[C@@]2(CC[C@@]3(C(=CC[C@H]4[C@]3(CC[C@@H]5[C@@]4(C[C@H]([C@@H]([C@@]5(C)CO)O)O)C)C)[C@@H]2[C@H]1C)C)C(=O)O[C@H]6[C@@H]([C@H]([C@@H]([C@H](O6)CO[C@H]7[C@@H]([C@H]([C@@H]([C@H](O7)CO)O[C@H]8[C@@H]([C@@H]([C@H]([C@H](O8)C)O)O)O)O)O)O)O)O | C48H78O19
